Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Meningioma
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ year old female on ASA ___ with PMHx of HTN, HLD who
presents to ___ from OSH s/p trip and fall while at the beach.
The patient is unsure whether the fall was mechanical in nature,
and was unable to r/o pre-syncopal events. She denies LOC at the
time of the fall. Imaging at OSH demonstrated a 1.9x2.1x1.7 cm
high density mass in the left frontal lobe associated with
vasogenic edema. Of note she was also found to have a proximal R
humerus fracture which is being treated nonsurgically. She was
transferred to ___ for further evaluation. On ROS the patient
denies CP, SOB, fevers, chills, dizziness, visual changes, 
memory
deficits, word finding difficulty, weakness or paresthesias. She
endorses "balance issues" although attributes this to arthritis
and not imbalance issues. No history concerning for seizure.

 

 
Past Medical History:
PMHx: HTN, HLD, arthritis, s/p hysterectomy  
 
Social History:
___
Family History:
Family Hx: NC

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T: 97.3   BP: 114/46        HR: 89    R:16     O2Sats: 95% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  3-2mm bilat       EOMs intact. Ecchymosis to
right eye and right mandible. 
Neck: Supple.
Lungs: No respiratory distress
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,  3 to 2
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout (RUE deltoid 
deferred
___ R proximal humerus FX). UTA pronator drift ___ R proximal
humerus FX

Sensation: Intact to light touch.

PHYSICAL EXAMINATION ON DISCHARGE:
Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right: 3-2mm     Left: 3-2mm 

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift: Unable to evaluate pronator drift secondary to
right upper extremity in sling. 

Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right   Deferred secondary to fracture   5
Left 5         5      5       5      5
IPQuadHamATEHLGast
Right5         5      5      5        5        5
Left5         5      5      5        5        5

Sensation intact in all four extremities. 

Ecchymosis to right orbit and right mandible.

 
Pertinent Results:
Please see OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
#Meningioma
The patient was admitted for incidental findings of a 
meningioma. She underwent a MRI of the brain on ___ to further 
evaluate the lesion. A formal neuro oncology consult was ordered 
and the patient was seen and evaluated by Dr. ___. The 
patient will follow up as an outpatient with Dr. ___ Dr. 
___ in 4 weeks to determine if a surgical plan is appropriate 
for her case. 

#Right Humerus Fracture
The patient was found to have a right humerus fracture and 
placed in a sling prior to transfer. A formal orthopedic consult 
was ordered on ___ and recommendations were appreciated. She 
remained in a sling for comfort and immobilization and was 
instructed to follow up with orthopedics as an outpatient. 

#Dispo:
The patient was cleared for safe discharge to home with home 
___. 
 
Medications on Admission:
Medications prior to admission: aspirin 81 mg  po daily,
levothyroxine 125 mcg tablet daily, amlodipine 5 mg po daily,
pravastatin 40 mg po QHS, atenolol 50 mg po daily

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 17.2 mg PO HS  
4.  amLODIPine 5 mg PO HS  
5.  Atenolol 50 mg PO QHS  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left frontal Brain Mass 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may experience headaches  •Feeling more tired or 
restlessness is also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

Right Humerus Fracture:
- Recommend sling for immobilization and comfort
- Activity: non weight bearing to Right upper extremity 

 
Followup Instructions:
___